### PR TITLE
Make witnessing a type class for better inference

### PR DESCRIPTION
**Pull request by mitschabaude**
* add `Witnessable` type class to improve witnessing of pure `Expression F` and get rid of `witnessField`
* some simplifications here and there

### CODE REVIEW

File: Clean/Circuit/Basic.lean [hunk 1]
```diff
@@ -397,6 +395,29 @@ end
 
 export Circuit (witnessVar witnessField witnessVars witnessVector assertZero lookup)
 
+-- general `witness` method
+
+class Witnessable (F : Type) [Field F] (value : outParam TypeMap) (var : TypeMap) [ProvableType value] where
+  witness : ((Environment F) → value F) → Circuit F (var F)
+  var_eq : var F = value (Expression F) := by rfl
+  witness_eq (compute : Environment F → value F) :
+    witness compute = var_eq ▸ ProvableType.witness compute := by intros; rfl
```
Comment (mitschabaude) [inline Clean/Circuit/Basic.lean:404]: `Witnessable.witness` is required to be the same as `ProvableType.witness`, but gives you more freedom in representing the variable type. `value` is an `outParam`, and therefore inferred from the var type

File: Clean/Circuit/Explicit.lean [hunk 2]
```diff
@@ -115,11 +115,39 @@ instance {k : ℕ} {c : Environment F → Vector F k} : ExplicitCircuit (witness
...
   operations n := [.witness k c]
 
-instance {α: TypeMap} [ProvableType α] : ExplicitCircuits (witness (α:=α) (F:=F)) where
+instance {α: TypeMap} [ProvableType α] : ExplicitCircuits (ProvableType.witness (α:=α) (F:=F)) where
   output _ n := varFromOffset α n
   localLength _ _ := size α
   operations c n := [.witness (size α) (toElements ∘ c)]
 
+instance {value var: TypeMap} [ProvableType value] [inst: Witnessable F value var] :
+    ExplicitCircuits (witness (F:=F) (value:=value) (var:=var)) where
```
Comment (mitschabaude) [inline Clean/Circuit/Explicit.lean:124]: this was somewhat nasty to prove, added a couple of helpers in `Utils/Misc`

File: Clean/Circuit/Provable.lean [hunk 3]
```diff
@@ -134,28 +134,6 @@ instance : ProvableType unit where
 
 @[reducible] def fieldVar (F : Type) := field (Expression F)
 
--- Instances for arithmetic operations on field expressions
--- Since field is defined as id, field (Expression F) = Expression F
-variable {F : Type} [Field F]
-
-instance : HSub (field (Expression F)) (field (Expression F)) (field (Expression F)) where
```
Comment (mitschabaude) [inline Clean/Circuit/Provable.lean:141]: I didn't remove these, just made them smaller and moved next to existing similar instances

File: Clean/Circomlib/Mux1.lean [hunk 4]
```diff
@@ -27,23 +27,21 @@ template MultiMux1(n) {
...
+  let { c, s } := input
 
-  -- Create output vector where each element is witnessed and constrained
-  -- Note: We assume n > 0 (enforced by NeZero instance)
+  -- Witness and constrain output vector
   let out <== c.map fun (c0, c1) =>
     (c1 - c0) * s + c0
   return out
 
 -- Note: This circuit requires n > 0. In practice, a 0-output multiplexer doesn't make sense.
```
Comment (yoichi-zksecurity) [inline Clean/Circomlib/Mux1.lean:43]:
```suggestion
```

File: Clean/Utils/Vector.lean [hunk 5]
```diff
@@ -114,13 +95,13 @@ lemma inductPush_cons_push {motive : {n: ℕ} → Vector α n → Sort u}
   conv => lhs; simp only [cons, inductPush]
   rw [cast_eq_iff_heq]
   have h_push_len : (xs.push a).toList.length = n + 1 := by simp
-  have h_to_push_cons : HEq (toPush ⟨.mk (x :: (xs.push a).toList), rfl⟩).as (cons x xs) := by
-    have : (toPush ⟨.mk (x :: (xs.push a).toList), rfl⟩).as = (cons x xs).cast h_push_len.symm := by
+  have h_to_push_cons : HEq (toPush ⟨.mk (x :: (xs.push a).toList), rfl⟩).1 (cons x xs) := by
+    have : (toPush ⟨.mk (x :: (xs.push a).toList), rfl⟩).1 = (cons x xs).cast h_push_len.symm := by
```
Comment (yoichi-zksecurity) [inline Clean/Utils/Vector.lean:99]: I have a feeling you could keep the struct, while using the simpler definition.

**Review by yoichi-zksecurity — APPROVED** [review]
Looks good to me. Comments are suggestions.
